US05585359
Step A Preparation of N-benzyl-N-t-butoxycarbonylglycine
N-Benzylglycine ethyl ester hydrochloride was converted to N-benzyl-N-t-butoxycarbonylglycine ethyl ester using di-t-butyl dicarbonate under standard conditions. The ethyl ester was saponified using sodium hydroxide in methanol to give the title compound.

reactant | N-Benzylglycine ethyl ester hydrochloride | Cl.C(C)OC(CNCC1=CC=CC=C1)=O
reactant | N-benzyl-N-t-butoxycarbonylglycine ethyl ester | C(C)OC(CN(C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C16H23NO4
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-benzyl-N-t-butoxycarbonylglycine | C(C1=CC=CC=C1)N(CC(=O)O)C(=O)OC(C)(C)C | C14H19NO4
